US08609656B2
(1-{4-[3-(4-Chloro-3-(trifluoromethyl)phenyl)-1-hydroxyureido]phenyl}-1H-indol-4-yl)carbamic acid tert-butyl ester (Table 1, Compound No. 60)
The title compound can be synthesized from 4-aminoindole, di-tert-butyl dicarbonate, 4-fluoronitrobenzene and 4-chloro-3-(trifluoromethyl)phenyl isocyanate by using the same techniques as in Example 45.

reactant | 4-aminoindole | NC1=C2C=CNC2=CC=C1 | C8H8N2
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-fluoronitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-chloro-3-(trifluoromethyl)phenyl isocyanate | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
product | (1-{4-[3-(4-Chloro-3-(trifluoromethyl)phenyl)-1-hydroxyureido]phenyl}-1H-indol-4-yl)carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C2C=CN(C2=CC=C1)C1=CC=C(C=C1)N(C(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F)O)=O | C27H24ClF3N4O4
